US06294527B1
7β-Tert-butoxycarbonylamino-3-(2-trifluoromethanesulfonyloxyvinyl)-3-cephem-4-carboxylic acid benzhydryl ester (trans isomer) (3.9 g, 6.1 mmol) was dissolved in anhydrous DMF (80 ml), added with 2-mercapto-4-oxo-4H-1-benzothiopyran (3.5 g, 18.3 mmol) and N-ethyldiisopropylamine (0.63 g, 4.87 mmol), successively, and stirred at room temperature under argon gas atmosphere for 24 hours. The reaction product was added with ethyl acetate (350 ml), washed with an aqueous solution of saturated sodium hydrogencarbonate (150 ml×2 times) and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the residue was purified by column chromatography (Wago Gel™ C-200, methylene chloride-ethyl acetate (8:1)) to obtain 3.56 g (yield: 85.4%) of 7β-tert-butoxycarbonylamino-3-[2-(4-oxo-4H-1-benzothiopyran-2-yl)thiovinyl]-3-cephem-4-carboxylic acid benzhydryl ester as yellow-red froth.

reactant | 7β-Tert-butoxycarbonylamino-3-(2-trifluoromethanesulfonyloxyvinyl)-3-cephem-4-carboxylic acid benzhydryl ester | 6.1 mmol, 3.9 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(=O)OC(C)(C)C)=O)C=COS(=O)(=O)C(F)(F)F | C28H27F3N2O8S2
reactant | 2-mercapto-4-oxo-4H-1-benzothiopyran | 18.3 mmol, 3.5 g | SC=1SC2=C(C(C1)=O)C=CC=C2 | C9H6OS2
reactant | N-ethyldiisopropylamine | 4.87 mmol, 0.63 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | ethyl acetate | 350 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 7β-tert-butoxycarbonylamino-3-[2-(4-oxo-4H-1-benzothiopyran-2-yl)thiovinyl]-3-cephem-4-carboxylic acid benzhydryl ester | 3.56 g, yield: 85.4% | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(=O)OC(C)(C)C)=O)C=CSC=2SC1=C(C(C2)=O)C=CC=C1 | C36H32N2O6S3
